US04492656
Into a one liter round bottom flask equipped with a phosgene inlet tube, a dry ice cooled condenser, a Teflon blade stirrer and a dropping funnel were added 200 milliliters (ml) of anhydrous ether. The flask was cooled in a dry ice/2-propanol bath and 100 ml of liquid phosgene (1.5 moles) were introduced. A mixture of acetone cyanohydrin (85 grams, 1 mole) and pyridine (80 ml, 1 mole) in 400 ml of anhydrous ether was added dropwise to the pool of phosgene, through the dropping funnel. When the addition was completed, the dry ice/2-propanol bath was replaced by an ice bath and stirring was continued for two hours. The reaction mixture was then stirred at room temperature for an additional two hours. Nitrogen was introduced into the reactor through the reactor inlet tube to remove the excess phosgene. The phosgene containing nitrogen gas stream removed from the reactor was forwarded to a packed column into the top of which was sprayed a solution of 15 weight percent sodium hydroxide and 0.8 weight percent pyridine. After degassing, the reaction mixture was filtered and dried over anhydrous magnesium sulfate. The ether solvent was evaporated and 123 grams (72% yield) of 1-cyano-1-methylethyl chloroformate as a light yellow liquid was obtained. Identification of the product as 1-cyano-1-methylethylchloroformate was confirmed by infrared and nuclear magnetic resonance (NMR) spectroscopy.

reactant | phosgene | 1.5 moles | C(=O)(Cl)Cl | CCl2O
reactant | acetone cyanohydrin | 1 mole, 85 grams | CC(C#N)(O)C | C4H7NO
reactant | pyridine | 1 mole, 80 ml | N1=CC=CC=C1 | C5H5N
reactant | dry ice 2-propanol | C(=O)=O.CC(C)O
solvent | ether | 400 ml | CCOCC | C4H10O
solvent | ether | 200 milliliters | CCOCC | C4H10O
product | 1-cyano-1-methylethyl chloroformate | 123 grams, 72% yield | ClC(=O)OC(C)(C)C#N | C5H6ClNO2
